US08222416B2
A mixture of 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-ethanol (460 mg, 1.08 mmol) and 10% palladium on activated carbon (100 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature before the catalyst was removed by filtration. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-ethanol (236 mg, 55.1%) as a white solid: LC/MS m/e calcd for C23H28N2O4S [M+H]+ 429.55, observed 429.5; 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (br. s., 1H), 7.90 (d, J=8.3 Hz, 3H), 7.60 (d, J=8.1 Hz, 2H), 6.53 (s, 1H), 4.33 (t, J=7.8 Hz, 1H), 4.16 (t, J=4.5 Hz, 2H), 3.90 (t, J=4.5 Hz, 2H), 3.09 (s, 3H), 2.23-2.31 (m, 1H), 2.09-2.18 (m, 1H), 1.60-1.87 (m, 5H), 1.44-1.56 (m, 2H), 1.17-1.30 (m, 2H).

reactant | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-ethanol | 1.08 mmol, 460 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OCCO)N1 | C23H26N2O4S
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-ethanol | 236 mg, 55.1% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OCCO)N1 | C23H28N2O4S
